US04927827
To a mixture of 6-o-tolyloxy-2-picoline amidine hydrochloride (3 g) and methanol (100 ml) were added 28% sodium methoxide solution in methanol (3.3 g) and 1,1-dimethoxybutanone (1.9 g). The mixture was heated under refluxing for an hour, and was left to stand at room temperature. The reaction solution was concentrated under reduced pressure, and the residue obtained was subjected to silica gel column chromatography (eluent; n-hexane: ethyl acetate=2:1 in volume) to obtain 4-methyl-2-(6-o-tolyloxy-2-pyridinyl)pyrimidine (2.4 g, yield 76%).

reactant | 6-o-tolyloxy-2-picoline amidine hydrochloride | 3 g | Cl.C1(=C(C=CC=C1)OC1=CC=CC(=N1)C(=N)N)C
reactant | sodium methoxide | C[O-].[Na+]
reactant | n-hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3.3 g | CO | CH4O
solvent | 1,1-dimethoxybutanone | 1.9 g | COC(C(CC)=O)OC | C6H12O3
solvent | methanol | 100 ml | CO | CH4O
product | 4-methyl-2-(6-o-tolyloxy-2-pyridinyl)pyrimidine | 2.4 g, yield 76% | CC1=NC(=NC=C1)C1=NC(=CC=C1)OC1=C(C=CC=C1)C | C17H15N3O
